US08912188B2
To a solution of phenylboronic acid (15 g, 123.02 mmol) in dioxane (150.0 mL) and water (3.0 mL) was added 3-bromofuran (16.3 g, 110.91 mmol), K3PO4 (43 g, 202.57 mmol) and Pd(PPh3)4 (6.0 g, 5.19 mmol) with stirring for 2 h at 90° C. in an oil bath maintained with an inert atmosphere of nitrogen. The reaction mixture was concentrated under reduced pressure to give the residue, which was purified by silica gel column chromatography eluting with 1% ethyl acetate in petroleum ether to afford 3-phenylfuran as a white solid (15 g, 85%).

reactant | phenylboronic acid | 123.02 mmol, 15 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 3-bromofuran | 110.91 mmol, 16.3 g | BrC1=COC=C1 | C4H3BrO
reactant | K3PO4 | 202.57 mmol, 43 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 150.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 3.0 mL | O | H2O
catalyst | Pd(PPh3)4 | 5.19 mmol, 6.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-phenylfuran | 15 g, 85% | C1(=CC=CC=C1)C1=COC=C1 | C10H8O
